US07872031B2
To tert-butyl 4,5-dihydrothieno[2,3-c]pyridine-6(7H)-carboxylate (2.0 g, 8.4 mmol) in chloroform (100 mL) at 0° C. was added dropwise bromine (430 μL, 8.4 mmol). The reaction was stirred 45 min with gradual warming to room temperature. The mixture was cooled to 0° C., and triethylamine (1.2 mL, 8.4 mmol) was added followed by di-tert-butyl dicarbonate (913 mg, 4.2 mmol). The reaction was stirred 1 hour, diluted with dichloromethane (50 mL), washed with 1.0 N HCl (1×50 mL), dried over MgSO4, and concentrated under reduced pressure. The resulting crude residue was purified via silica gel chromatography to afford 2 g (77% yield) of tert-butyl 2-bromo-4,5-dihydrothieno[2,3-c]pyridine-6(7H)-carboxylate as a colorless oil; 1H NMR (CDCl3) δ 6.78 (s, 1H), 4.50 (s, 2H), 3.67 (t, J=5.7 Hz, 2H), 2.65 (t, J=5.7 Hz, 2H), 1.50 (s, 9H); ES-MS: m/e=261.9 (M−55)+.

reactant | tert-butyl 4,5-dihydrothieno[2,3-c]pyridine-6(7H)-carboxylate | 8.4 mmol, 2.0 g | S1C=CC2=C1CN(CC2)C(=O)OC(C)(C)C | C12H17NO2S
reactant | bromine | 8.4 mmol, 430 μL | BrBr | Br2
reactant | triethylamine | 8.4 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.2 mmol, 913 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl 2-bromo-4,5-dihydrothieno[2,3-c]pyridine-6(7H)-carboxylate | 2 g, 77% yield | BrC1=CC2=C(CN(CC2)C(=O)OC(C)(C)C)S1 | C12H16BrNO2S
